US05036091
Step 1: 4-nitro-1-[4,4,4-trifluoro-3-(1-ethoxyethoxy)butoxy]benzene (MD 360349)
To a suspension of 2.4 g (0.049 mol) of 50% NaH in 50 ml of THF, is slowly added a solution of 10.6 g (0.049 mol) of 3-(1-ethoxyethoxy)-4,4,4-trifluoro-1-butanol in 15 ml of THF. When no more gas evolves, a solution of 6.5 g (0.041 mol) of 4-chloronitrobenzene in 65 ml of DMF is added. After 30 min., the reaction medium is poured on iced water. The reaction medium is extracted with ether. The organic phase is washed with water, dried over Na2SO4 and concentrated. The aimed product is obtained with a 78% yield after recrystallization from isopropanol. m.p.: 81° C.;

reactant | NaH | 0.049 mol, 2.4 g | [H-].[Na+]
reactant | 3-(1-ethoxyethoxy)-4,4,4-trifluoro-1-butanol | 0.049 mol, 10.6 g | C(C)OC(C)OC(CCO)C(F)(F)F | C8H15F3O3
reactant | 4-chloronitrobenzene | 0.041 mol, 6.5 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | 4-nitro-1-[4,4,4-trifluoro-3-(1-ethoxyethoxy)butoxy]benzene | 78% yield | [N+](=O)([O-])C1=CC=C(C=C1)OCCC(C(F)(F)F)OC(C)OCC | C14H18F3NO5
